US08431563B2
To a 100-mL round-bottomed flask was added ethyl N-(diphenylmethylidene)-3-(6-methoxy-2-pyridinyl)alaninate (1.81 g, 4.66 mmol) and 5N hydrochloric acid (1.86 mL, 9.32 mmol), and THF (20 mL). The reaction mixture was stirred at room temperature for 30 min. The solvent was removed in vacuo to give crude ethyl 3-(6-methoxy-2-pyridinyl)alaninate as a light-yellow tar, which was used without purification.

reactant | ethyl N-(diphenylmethylidene)-3-(6-methoxy-2-pyridinyl)alaninate | 4.66 mmol, 1.81 g | C1(=CC=CC=C1)C(=N[C@@H](CC1=NC(=CC=C1)OC)C(=O)OCC)C1=CC=CC=C1 | C24H24N2O3
reactant | hydrochloric acid | 9.32 mmol, 5N, 1.86 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 3-(6-methoxy-2-pyridinyl)alaninate | COC1=CC=CC(=N1)C[C@H](N)C(=O)OCC | C11H16N2O3
